US09061013B2
1-[4-(hydroxyimino-methyl)-phenyl]-azetidine-3-carboxylic acid methyl ester
To a stirred suspension of 1-(4-formyl-phenyl)-azetidine-3-carboxylic acid methyl ester (Preparation 9, 2.6 g, 11.87 mmol) in methanol (25 mL) and water (25 mL) was added sodium acetate (1.75 g, 21.36 mmol) followed by hydroxylamine hydrochloride (1.24 g, 17.80 mmol) at 0° C. Resulting reaction mixture was stirred at room temperature for 3 hours. After consumption of starting material, methanol was evaporated under reduced pressure and extracted with EtOAc (4×30 mL). Combined organic layer was dried over anhydrous sodium sulphate and concentrated in vacuo to afford yellow colored solid (2.86 g, 99%). 1H NMR (400 MHz, CDCl3) δ: 3.55-3.59 (m, 1H), 3.75 (s, 3H), 4.05-4.13 (m, 4H), 6.42 (d, 2H, J=8.56 Hz), 7.41 (d, 2H, J=8.6 Hz), 8.03 (s, 1H); LC-MS (M+H): =235.00.

reactant | 1-(4-formyl-phenyl)-azetidine-3-carboxylic acid methyl ester | 11.87 mmol, 2.6 g | COC(=O)C1CN(C1)C1=CC=C(C=C1)C=O | C12H13NO3
reactant | sodium acetate | 21.36 mmol, 1.75 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 17.80 mmol, 1.24 g | Cl.NO
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | 1-[4-(hydroxyimino-methyl)-phenyl]-azetidine-3-carboxylic acid methyl ester | 2.86 g, 99% | COC(=O)C1CN(C1)C1=CC=C(C=C1)C=NO | C12H14N2O3
